US07074819B2
Step 6) Synthesis of (3RS,4RS)-4-(8-methanesulfonyloxyoctyl)-7-methoxy-3-(4-methoxy-phenyl)-3-methylthiochroman
(3RS,4RS)-4-(8-hydroxyoctyl)-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman (3.25 g, 7.58 mmol) was dissolved in dichloromethane (100 ml), to which were added triethylamine (1.59 ml, 11.37 mmol) and methanesulfonyl chloride (0.88 ml, 11 37 mmol). The reaction mixture was stirred at room temperature for 1 hour. After the reaction was completed, water was added to the reaction solution, and the resulting mixture was extracted with methylene chloride. The organic layer was washed with 1M HCl solution, water and saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated. The product was purified by column chromatography on silica gel, eluting with 30% ethyl acetate in n-hexane to afford 3.75 g of the title compound as a pale yellow oil. (yield: 97.7%)

reactant | (3RS,4RS)-4-(8-hydroxyoctyl)-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman | 7.58 mmol, 3.25 g | OCCCCCCCCC1C(CSC2=CC(=CC=C12)OC)(C)C1=CC=C(C=C1)OC | C26H36O3S
reactant | triethylamine | 11.37 mmol, 1.59 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 37 mmol, 0.88 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (3RS,4RS)-4-(8-methanesulfonyloxyoctyl)-7-methoxy-3-(4-methoxy-phenyl)-3-methylthiochroman | 3.75 g, yield: 97.7% | CS(=O)(=O)OCCCCCCCCC1C(CSC2=CC(=CC=C12)OC)(C)C1=CC=C(C=C1)OC | C27H38O5S2
